US07358376B2
a) (4-Pyrimidyl)acetone
4-Methylpyrimidine (2 g) was stirred in dry tetrahydrofuran (65 ml) under argon and the solution was cooled to −78° C. Lithium diisopropylamide (13.8 ml, 2M solution) was added dropwise over 20 minutes and stirring was continued at −78° C. for 1.5 h before dropwise addition of N-methoxy-N-methylacetamide (2.49 ml). The reaction mixture was stirred at −78° C. for a further 40 minutes before allowing to warm to room temperature over 1.25 h, then partitioned between saturated aqueous sodium carbonate and ethyl acetate. The layers were separated and the aqueous phase further extracted with ethyl acetate. The combined extracts were washed with brine, dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography on silica gel eluting with 40-50% ethyl acetate in hexane to give an oil which crystallised on standing (0.70 g, 24%).

reactant | 4-Methylpyrimidine | 2 g | CC1=NC=NC=C1 | C5H6N2
reactant | Lithium diisopropylamide | 2M, 13.8 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-methoxy-N-methylacetamide | 2.49 ml | CON(C(C)=O)C | C4H9NO2
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
product | (4-Pyrimidyl)acetone | N1=CN=C(C=C1)CC(C)=O | C7H8N2O
